* D:\ESTUDIO\Github\TC2\TS12\Simulaciones\Ej2_Z11.asc
R1 N002 N001 1.5
R2 V2 N002 1
C3 V2 0 2
R3 V2 0 0.1666666
V1 N001 0 AC 1
C1 N002 N001 0.666666
.ac dec 1k 1m 1k
.backanno
.end
