* D:\ESTUDIO\Github\TC2\Tareas semanales\TS13\Simulaciones\Ej2.asc
C3 N001 0 1.5882353
C2 V2 N001 0.0934256
C1 0 V2 0.4117647
RL V2 0 1
I1 0 N001 AC 1
L2 N001 V2 1.1893
.ac dec 1k 1m 1k
.backanno
.end
