* D:\ESTUDIO\Github\TC2\Tareas semanales\TS15\Simulaciones\Normalizado.asc
L1 N001 N002 2.099
C1 N002 0 1.0644
L2 N002 N003 2.8325
C2 N003 0 0.788
RL N003 0 2.6667
V1 N001 0 AC 1 Rser=1
.net I(RL) V1
.ac dec 1k 1m 1k
.backanno
.end
